US09062048B2
Step A: N-ethyl-1,4-dioxaspiro[4.5]decan-8-amine
1,4-dioxaspiro[4.5]decan-8-one (2 g, 12.8 mmol), and ethylamine (6.4 mL, 12.8 mmol), and sodium triacetoxyborohydride (8 g, 38 mmol) were taken in acetonitrile and stirred for 18 h at room temperature. The mixture concentrated under vacuum and the residue basified with NaHCO3, saturated with solid NaCl and extracted with EtOAc/iPrOH (4:1) four times. Organic layer separated, dried over Na2SO4 and evaporated to give the title compound.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 12.8 mmol, 2 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | ethylamine | 12.8 mmol, 6.4 mL | C(C)N | C2H7N
reactant | sodium triacetoxyborohydride | 38 mmol, 8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-ethyl-1,4-dioxaspiro[4.5]decan-8-amine | C(C)NC1CCC2(OCCO2)CC1 | C10H19NO2
